US09326973B2
A mixture of KO-tBu (7.4 g, 65.9 mmol) and bromo(methyl)triphenylphosphorane (21.6 g, 60.5 mmol) in ether (100 mL) was refluxed for 0.5 h. Then a solution of 1,4-dioxaspiro[4.5]decan-8-one (6.24 g, 40.0 mmol) in ether (100 mL) was added dropwise during 1.5 h. The reaction mixture was stirred for 2 h, cooled to rt, filtered and the filtrate was concentrated. The residue was purified by silica gel chromatography (EtOAc/hexane) to afford 8-methylene-1,4-dioxaspiro[4.5]decane (1.5 g) as a clear oil. 1H NMR (400 MHz, CDCl3) δ ppm 4.62-4.74 (2H, m), 3.98 (4H, s), 2.30 (4H, dd, J=7.03, 6.02 Hz), 1.66-1.77 (4H, m).

reactant | KO-tBu | 65.9 mmol, 7.4 g | O([K])C(C)(C)C
reactant | bromo(methyl)triphenylphosphorane | 60.5 mmol, 21.6 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C | C19H18BrP
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 40.0 mmol, 6.24 g | O1CCOC12CCC(CC2)=O | C8H12O3
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 8-methylene-1,4-dioxaspiro[4.5]decane | 1.5 g | C=C1CCC2(OCCO2)CC1 | C9H14O2
